US06858651B2
400 mg (8.4 mmol) trans-N-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide were suspended in toluene and evaporated (3×), redissolved in lml DMF and treated with 102.4 mg (1.5 mmol, 1.8 eq) imidazole. At 0° C., 176 mg (11.7 mmol, 1.4 eq) TBDMSCl in 2 ml DMF were added, and the reaction mixture was stirred at 50° C. for 1 h. The solution was added to an aqueous solution of NaHCO3 and extracted with ether. The organic layer was washed with water and brine, and dried over Na2SO4. 509 mg crude trans-N-[4-(5-{[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amino}-pentyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide were isolated as light yellow oil.

reactant | trans-N-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | 8.4 mmol, 400 mg | C(C)N(CCCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)CCO | C23H37F3N2O3S
reactant | imidazole | 1.5 mmol, 102.4 mg, 1.8 eq | N1C=NC=C1 | C3H4N2
reactant | TBDMSCl | 11.7 mmol, 176 mg, 1.4 eq | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | trans-N-[4-(5-{[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amino}-pentyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 509 mg | C(C)(C)(C)[Si](OCCN(CCCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)CC)(C)C | C29H51F3N2O3SSi
